US05652271
Methylmagnesium iodide (138 ml of 3M solution in ether) was added dropwise to a stirred solution of 1-(3-chlorophenyl)cyclobutanecarbonitrile (53 g) in ether (100 ml) under nitrogen at 0° C. The mixture was stirred at ambient temperature for 24 hours. The resulting solid was collected by filtration, washed well with ether, then added in portions to an ice-cold mixture of water (200 ml) and concentrated hydrochloric acid (125 ml). The resulting yellow suspension was heated at 95° C. for 1 hour with occasional stirring, and then cooled to ambient temperature. The product was extracted into ether (5×100 ml) and the combined extracts washed with water (2×100 ml), dried over magnesium sulphate and the solvent removed in vacuo to give an oil which was distilled to give 1-[1-(3-chlorophenyl)cyclobutyl]ethanone (47.5 g), b.p. 108°-109° C./2 mbar.

reactant | Methylmagnesium iodide | 3M, 138 ml | C[Mg]I
reactant | 1-(3-chlorophenyl)cyclobutanecarbonitrile | 53 g | ClC=1C=C(C=CC1)C1(CCC1)C#N | C11H10ClN
reactant | ether | 100 ml | CCOCC | C4H10O
product | 1-[1-(3-chlorophenyl)cyclobutyl]ethanone | 47.5 g | ClC=1C=C(C=CC1)C1(CCC1)C(C)=O | C12H13ClO
